US04191553
Phenyl[(4,6-dimethoxypyrimidin-2-yl)-aminocarbonyl]sulfamate
To a well stirred solution of 1.6 g of chlorosulfonyl isocyanate in 7 ml of dry xylene at ambient temperature and pressure was added 0.9 g of phenol. The resulting mixture was heated to reflux temperature for 1.5 hours. The solvent was removed under reduced pressure to give a clear oil. The oil was diluted with 5 ml of methylene chloride and added to a cooled (ice-water bath) suspension of 1.5 g of 2-amino-4.6-dimethoxypyrimidine in 10 ml of methylene chloride. The solvent was removed under vacuum. The resultant oil was triturated with 1-chlorobutane and filtered to yield 2.6 g of white solid, m.p. 136°-139° C. The infrared spectrum showed characteristic absorption bands at 3150 cm-1, 1720 cm-1, 1625 cm-1, 1580 cm-1.

reactant | chlorosulfonyl isocyanate | 1.6 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | phenol | 0.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-amino-4.6-dimethoxypyrimidine | 1.5 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
solvent | xylene | 7 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Phenyl[(4,6-dimethoxypyrimidin-2-yl)-aminocarbonyl]sulfamate | 2.6 g | C1(=CC=CC=C1)OS(NC(=O)NC1=NC(=CC(=N1)OC)OC)(=O)=O | C13H14N4O6S
